US05037849
d) trans-2-Chloro-N-(4-hydroxycyclohexyl)-acetamide
15.1 g. (0.1 mole) trans-4-aminocyclohexanol hydrochloride are suspended in 100 ml. water and adjusted to a pH of 12.5 by the addition of 50 ml. 2N aqueous sodium hydroxide solution. 9.5 ml. (0.12 mole) chloroacetyl chloride are then added dropwise thereto and the pH maintained at 12 to 12.5 by the simultaneous dropwise addition of 2N aqueous sodium hydroxide solution. After the end of the reaction, the reaction mixture is extracted with n-butanol and the organic phase is distilled off in a vacuum. The residue is again dissolved in ethanol, filtered, evaporated and triturated with diethyl ether. After filtering off with suction, there are obtained 12.9 g. of the title compound, i.e. 67% of theory; m.p. 149°-151° C.

reactant | trans-4-aminocyclohexanol hydrochloride | 0.1 mole | Cl.N[C@@H]1CC[C@H](CC1)O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | chloroacetyl chloride | 0.12 mole | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | O | H2O
product | trans-2-Chloro-N-(4-hydroxycyclohexyl)-acetamide | ClCC(=O)N[C@@H]1CC[C@H](CC1)O | C8H14ClNO2
